US04911747
A solution containing 4.7 g N-[1,2-dimethyl-1-(thiocarbamoyl)propyl]-m-toluamide in 75 mL THF and 35 mL 10% NaOH is heated at 65° C. for 18 hours. The THF is removed in vacuo and the pH of the cooled residue adjusted to 3 with concentrated H2SO4. The product is extracted into CH2Cl2, the extract washed with brine, dried and concentrated to give a yellow solid. This is recrystallized from acetonitrile to give analytically pure 4-isopropyl-4-methyl-2-m-tolyl-2-imidazolin-5-thione, mp 122°-123° C.

reactant | N-[1,2-dimethyl-1-(thiocarbamoyl)propyl]-m-toluamide | 4.7 g | CC(C(C)C)(C(N)=S)NC(=O)C=1C=C(C=CC1)C | C14H20N2OS
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | NaOH | 35 mL | [OH-].[Na+]
product | 4-isopropyl-4-methyl-2-m-tolyl-2-imidazolin-5-thione | C(C)(C)C1(N=C(NC1=S)C=1C=C(C=CC1)C)C | C14H18N2S
